US08314256B2
N-Benzhydryl-2-(1H-indol-3-yl)-2-oxo-acetamide was synthesized following scheme I above starting from (1H-indol-3-yl)-oxo-acetyl chloride and C,C-diphenyl-methylamine. Yield (52%). HPLC ret. time 3.59 min, 1099% CH3CN, 5 min run; 1H NMR (400 MHz, DMSO-d6) δ 12.26 (s, 1H), 9.56 (d, J=9.1 Hz, 1H), 8.56 (d, J=3.2 Hz, 1H), 8.22 (m, 1H), 7.54 (m, 1H), 7.43-7.26 (m, 12H), 6.32 (d, J=9.1 Hz, 1H); ESI-MS 355.5 m/z (MH+).

reactant | (1H-indol-3-yl)-oxo-acetyl chloride | N1C=C(C2=CC=CC=C12)C(C(=O)Cl)=O | C10H6ClNO2
reactant | C,C-diphenyl-methylamine | C1(=CC=CC=C1)C(C1=CC=CC=C1)N | C13H13N
solvent | CH3CN | CC#N | C2H3N
product | N-Benzhydryl-2-(1H-indol-3-yl)-2-oxo-acetamide | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(C(=O)C1=CNC2=CC=CC=C12)=O | C23H18N2O2
